* File: hw2_bonus.pex.netlist.pex
* Created: Sat Nov 23 22:33:00 2024
* Program "Calibre xRC"
* Version "v2020.2_14.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HW2_BONUS%B 8 19 26 35 39
c0 53 0 0.281763f
c1 52 0 0.0421393f
c2 46 0 0.0149417f
c3 45 0 0.0768089f
c4 39 0 0.454044f
c5 35 0 0.820781f
c6 31 0 0.331211f
c7 29 0 0.367433f
c8 22 0 0.281422f
c9 18 0 0.0388948f
c10 14 0 0.0663111f
c11 13 0 0.0645087f
c12 10 0 0.135665f
c13 9 0 0.140473f
c14 6 0 0.0608601f
r15 52 53 0.042363
r16 51 52 8
r17 49 53 0.580667
r18 43 51 0.0535032
r19 42 45 7.65578
r20 42 43 13.2552
r21 37 46 4.32407
r22 37 39 193.25
r23 33 46 4.32407
r24 33 35 325
r25 31 46 0.585595
r26 31 45 122.143
r27 28 29 8.16635
r28 26 28 2.916
r29 22 25 0.322609
r30 21 25 16.3327
r31 21 22 5.44423
r32 19 21 1.4087
r33 17 22 0.546304
r34 17 18 0.0512001
r35 15 29 0.914261
r36 14 49 0.0422469
r37 13 15 0.0557407
r38 13 14 8
r39 10 18 0.0512001
r40 9 43 0.0557621
r41 9 10 0.356087
r42 6 18 0.00604162
r43 6 8 0.0357447
.ends

.subckt PM_HW2_BONUS%2 41 48 55 62 67 79 85 91
c0 124 0 0.23063f
c1 101 0 0.153472f
c2 100 0 0.0624269f
c3 99 0 0.0946054f
c4 97 0 0.0127334f
c5 96 0 0.0111496f
c6 95 0 0.0341344f
c7 91 0 0.301478f
c8 87 0 0.299641f
c9 85 0 0.284987f
c10 82 0 0.111624f
c11 79 0 0.750199f
c12 75 0 0.0740939f
c13 72 0 0.0666287f
c14 70 0 0.630084f
c15 65 0 0.282872f
c16 58 0 0.200998f
c17 51 0 0.414177f
c18 44 0 0.582433f
c19 38 0 0.0598548f
c20 35 0 0.0110788f
c21 33 0 0.00978065f
c22 31 0 0.0148359f
c23 28 0 0.0642968f
c24 27 0 0.0657106f
c25 22 0 0.0470889f
c26 21 0 0.0733885f
c27 16 0 0.0986034f
c28 12 0 0.0342776f
c29 9 0 0.189532f
c30 8 0 0.0324337f
c31 3 0 0.272637f
r32 100 128 0.0532817
r33 99 101 8.07022
r34 99 100 13.2552
r35 94 97 3.81101
r36 94 101 66
r37 89 97 0.990414
r38 89 91 131.75
r39 88 96 0.990414
r40 87 97 3.81101
r41 87 88 126.5
r42 83 96 3.81101
r43 83 85 131.75
r44 82 96 3.81101
r45 81 95 7.73958
r46 81 82 48
r47 77 95 7.73958
r48 77 79 316.5
r49 75 124 0.0464972
r50 74 75 13.2552
r51 72 95 1.29764
r52 72 74 4.86383
r53 69 70 8.16635
r54 67 69 2.664
r55 64 65 8.16635
r56 62 64 2.664
r57 58 61 0.322609
r58 57 61 16.3327
r59 57 58 5.44423
r60 55 57 1.41304
r61 51 53 0.322609
r62 50 53 16.3327
r63 50 51 5.44423
r64 48 50 1.28696
r65 44 46 0.322609
r66 43 46 16.3327
r67 43 44 5.44423
r68 41 43 1.28696
r69 39 58 0.315
r70 38 39 0.0069994
r71 36 38 0.1064
r72 34 51 1.09413
r73 34 35 0.0347996
r74 32 70 1.82122
r75 32 33 0.0307054
r76 30 44 1.32239
r77 30 31 0.0307054
r78 28 106 0.0167143
r79 27 28 8
r80 24 27 0.0244286
r81 22 105 0.0401605
r82 21 22 8
r83 18 65 0.655565
r84 17 21 0.0244286
r85 17 18 0.0297136
r86 16 36 0.0069994
r87 16 128 0.28913
r88 14 35 0.00369943
r89 14 124 0.7475
r90 12 35 0.0347996
r91 11 33 0.0307054
r92 11 12 0.143043
r93 10 31 0.00682649
r94 9 33 0.00682649
r95 9 10 0.641667
r96 8 31 0.0307054
r97 7 24 0.0297136
r98 7 8 0.14
r99 3 106 0.0172131
r100 3 105 0.485469
.ends

.subckt PM_HW2_BONUS%A 8 20 27 36 40
c0 54 0 0.281763f
c1 53 0 0.0421393f
c2 47 0 0.0149417f
c3 46 0 0.0768089f
c4 40 0 0.454044f
c5 36 0 0.821252f
c6 32 0 0.331211f
c7 30 0 0.367433f
c8 23 0 0.281422f
c9 19 0 0.0388948f
c10 15 0 0.0663111f
c11 14 0 0.0645087f
c12 11 0 0.135665f
c13 10 0 0.140473f
c14 6 0 0.0608601f
r15 53 54 0.042363
r16 52 53 8
r17 50 54 0.580667
r18 44 52 0.0535032
r19 43 46 7.67493
r20 43 44 13.2552
r21 38 47 4.32407
r22 38 40 193.25
r23 34 47 4.32407
r24 34 36 325
r25 32 47 0.585595
r26 32 46 122.143
r27 29 30 8.16635
r28 27 29 2.925
r29 23 26 0.322609
r30 22 26 16.3327
r31 22 23 5.44423
r32 20 22 1.41304
r33 18 23 0.546304
r34 18 19 0.0512001
r35 16 30 0.914261
r36 15 50 0.0422469
r37 14 16 0.0557407
r38 14 15 8
r39 11 19 0.0512001
r40 10 44 0.0557621
r41 10 11 0.356087
r42 6 19 0.00604162
r43 6 8 0.0387234
.ends

.subckt PM_HW2_BONUS%S 12 32 39 46 51
c0 54 0 0.628588f
c1 49 0 0.282872f
c2 42 0 0.470932f
c3 35 0 0.582433f
c4 31 0 0.0021162f
c5 28 0 0.0149512f
c6 25 0 0.0642968f
c7 24 0 0.0657106f
c8 19 0 0.0470889f
c9 18 0 0.0733885f
c10 12 0 0.0765844f
c11 8 0 0.190003f
c12 7 0 0.0324337f
c13 3 0 0.272637f
r14 53 54 8.16635
r15 51 53 2.655
r16 48 49 8.16635
r17 46 48 2.655
r18 42 44 0.322609
r19 41 44 16.3327
r20 41 42 5.44423
r21 39 41 1.28261
r22 35 37 0.322609
r23 34 37 16.3327
r24 34 35 5.44423
r25 32 34 1.28261
r26 30 42 1.32239
r27 30 31 0.0189808
r28 29 54 1.81513
r29 29 31 0.0189808
r30 27 35 1.32239
r31 27 28 0.0307054
r32 25 59 0.0165816
r33 24 25 8
r34 21 24 0.0242857
r35 19 58 0.0401605
r36 18 19 8
r37 15 49 0.655565
r38 14 18 0.0242857
r39 14 15 0.0297136
r40 10 31 0.0160634
r41 10 12 0.126538
r42 9 28 0.00682649
r43 8 31 0.0160634
r44 8 9 0.641667
r45 7 28 0.0307054
r46 6 21 0.0297136
r47 6 7 0.14
r48 3 59 0.0172131
r49 3 58 0.485469
.ends

.subckt PM_HW2_BONUS%C 10 24 30 36 53
c0 53 0 0.0843356f
c1 46 0 0.153472f
c2 45 0 0.0624269f
c3 44 0 0.0946054f
c4 42 0 0.0127334f
c5 41 0 0.0315356f
c6 40 0 0.0111496f
c7 36 0 0.301478f
c8 32 0 0.299641f
c9 30 0 0.220745f
c10 27 0 0.0110451f
c11 24 0 0.915177f
c12 17 0 0.0668834f
c13 13 0 0.200998f
c14 7 0 0.0598548f
c15 4 0 0.0986034f
r16 45 57 0.0532817
r17 44 46 8.08937
r18 44 45 13.2552
r19 39 42 3.81101
r20 39 46 66
r21 34 42 0.990414
r22 34 36 131.75
r23 33 40 0.990414
r24 32 42 3.81101
r25 32 33 126.5
r26 28 41 7.73958
r27 28 30 103.25
r28 27 41 7.73958
r29 26 40 3.81101
r30 26 27 5
r31 22 40 3.81101
r32 22 24 388
r33 19 53 13.2552
r34 17 41 1.29764
r35 17 19 4.86383
r36 13 16 0.322609
r37 12 16 16.3327
r38 12 13 5.44423
r39 10 12 1.4087
r40 8 13 0.315
r41 7 8 0.0069994
r42 5 7 0.1064
r43 4 5 0.0069994
r44 4 57 0.28913
.ends

.subckt PM_HW2_BONUS%6 10 17 22 29
c0 45 0 0.056365f
c1 44 0 0.163003f
c2 32 0 0.0777446f
c3 29 0 0.509042f
c4 25 0 0.537702f
c5 20 0 0.405004f
c6 13 0 0.683791f
c7 8 0 0.011429f
c8 4 0 0.2048f
r9 33 45 0.0561115
r10 33 44 0.05492
r11 32 34 8.13918
r12 32 33 13.2552
r13 29 34 198.5
r14 24 25 8.16635
r15 22 24 2.916
r16 19 20 8.16635
r17 17 19 2.754
r18 13 15 0.322609
r19 12 15 16.3327
r20 12 13 5.44423
r21 10 12 1.33043
r22 9 25 1.22192
r23 7 13 1.81848
r24 7 8 0.0296412
r25 6 20 1.32817
r26 6 8 0.0296412
r27 4 9 0.0391994
r28 4 45 0.511304
r29 3 8 0.00770322
r30 3 44 0.578261
.ends

.subckt PM_HW2_BONUS%VDD 6 7 14 61
c0 50 0 0.047451f
c1 17 0 0.215356f
c2 10 0 0.220791f
c3 4 0 0.0393476f
r4 49 50 5.44423
r5 47 50 0.669565
r6 46 49 42.1277
r7 46 47 5.44423
r8 44 47 0.736217
r9 43 46 46.3213
r10 43 44 5.44423
r11 39 61 0.500348
r12 38 39 8.16635
r13 36 39 0.413913
r14 35 38 26.0426
r15 35 36 5.44423
r16 33 36 0.62087
r17 32 35 39.0638
r18 32 33 5.44423
r19 30 33 0.623913
r20 30 55 0.376174
r21 29 32 39.2553
r22 29 30 5.44423
r23 27 66 0.00770322
r24 27 52 0.0296412
r25 27 55 0.0296412
r26 26 29 25.8511
r27 26 27 16.3327
r28 23 52 0.262957
r29 22 26 18.766
r30 22 23 8.16635
r31 17 20 0.322609
r32 16 20 16.3327
r33 16 17 5.44423
r34 14 16 1.36522
r35 13 66 0.357609
r36 10 13 0.322609
r37 9 13 16.3327
r38 9 10 5.44423
r39 7 9 1.36522
r40 6 43 53.0426
r41 6 38 8.61702
r42 4 61 0.197826
r43 4 5 0.0296412
r44 3 44 0.211826
r45 3 5 0.0296412
r46 2 20 0.357609
r47 2 5 0.00770322
.ends

.subckt PM_HW2_BONUS%GND 2 39 44 66
c0 58 0 0.0523184f
c1 47 0 0.139836f
c2 42 0 0.117544f
c3 37 0 0.0604219f
c4 28 0 0.00810347f
r5 58 66 0.228261
r6 47 52 0.312261
r7 46 47 8.16635
r8 44 46 2.736
r9 42 49 0.312261
r10 41 42 8.16635
r11 39 41 2.736
r12 36 37 5.44423
r13 34 37 0.684783
r14 33 36 43.0851
r15 33 34 5.44423
r16 31 34 0.63913
r17 31 67 0.470217
r18 30 33 40.2128
r19 30 31 5.44423
r20 28 52 0.00770322
r21 28 58 0.0296412
r22 28 67 0.0296412
r23 27 30 31.7681
r24 27 28 16.3327
r25 24 66 0.296435
r26 21 24 0.365217
r27 20 21 5.44423
r28 18 21 0.538696
r29 17 20 33.8936
r30 17 18 5.44423
r31 15 18 0.520435
r32 14 17 32.7447
r33 14 15 5.44423
r34 12 15 0.483913
r35 12 59 0.300087
r36 11 14 30.4468
r37 11 12 5.44423
r38 9 49 0.00770322
r39 9 55 0.0296412
r40 9 59 0.0296412
r41 8 11 21.0638
r42 8 9 16.3327
r43 5 55 0.269043
r44 4 8 19.1489
r45 4 5 8.16635
r46 2 27 35.234
r47 2 20 22.9787
r48 2 24 8.16635
.ends

.subckt PM_HW2_BONUS%9 10 17 22 29
c0 45 0 0.056365f
c1 44 0 0.163003f
c2 32 0 0.0777446f
c3 29 0 0.509042f
c4 25 0 0.537702f
c5 20 0 0.410312f
c6 13 0 0.683791f
c7 8 0 0.011429f
c8 4 0 0.2048f
r9 33 45 0.0562605
r10 33 44 0.0547711
r11 32 34 8.13918
r12 32 33 13.2552
r13 29 34 198.5
r14 24 25 8.16635
r15 22 24 2.925
r16 19 20 8.16635
r17 17 19 2.754
r18 13 15 0.322609
r19 12 15 16.3327
r20 12 13 5.44423
r21 10 12 1.33043
r22 9 25 1.22192
r23 7 13 1.81848
r24 7 8 0.0296412
r25 6 20 1.32817
r26 6 8 0.0296412
r27 4 9 0.0391994
r28 4 45 0.511304
r29 3 8 0.00770322
r30 3 44 0.578261
.ends

